US07141586B2
4M Hydrochloric acid in dioxan (13 ml, 52 mmol) was added to a solution of the more polar diastereoisomer of tert-butyl 4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexylcarbamate (840 g, 2.67 mmol) in dioxan (5 ml). The mixture was stirred for 2 h then the solvent was removed under reduced pressure and the residue dried in vacuo to give tert-butyl 4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexylcarbamate hydrochloride (305 mg) as a hygroscopic foam, as a ca. 4:1 mixture of diastereoisomers.

reactant | Hydrochloric acid | 4M | Cl | ClH
reactant | tert-butyl 4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexylcarbamate | 2.67 mmol, 840 g | OCC(C(=O)NC1CCC(CC1)NC(OC(C)(C)C)=O)(C)C | C16H30N2O4
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 52 mmol, 13 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-[(3-hydroxy-2,2-dimethylpropanoyl)amino]cyclohexylcarbamate hydrochloride | 305 mg | Cl.OCC(C(=O)NC1CCC(CC1)NC(OC(C)(C)C)=O)(C)C | InChI=1S/C16H30N2O4.ClH/c1-15(2,3)22-14(21)18-12-8-6-11(7-9-12)17-13(20)16(4,5)10-19;/h11-12,19H,6-10H2,1-5H3,(H,17,20)(H,18,21);1H
